US06579864B1
(7α)-3,3-Dimethoxy-7-methylestr-5(10)-en-17-one (100 mg, 0.3 mmol) was added to a solution of methoxylamine.HCl (100 mg, 1.2 mmol) and sodium acetate (123 mg, 1.5 mmol) in 6 mL MeOH. The reaction mixture was stirred for 3 days at room temperature. Water and a solution of saturated sodium hydrogen carbonate was added and extracted with ethyl acetate. The organic layer was washed with brine, dried (Na2SO4) and evaporated to dryness to give the crude (7α)-3,3-dimethoxy-7-methylestr-5(10)-en-17-one O-methyloxime, which was converted into (7α)-3-methylene-7-methylestr-5(10)-en-17-one O-methyloxime according to the methods described above, [α]D +149° (c 0.11 in ethanol).

reactant | (7α)-3,3-Dimethoxy-7-methylestr-5(10)-en-17-one | 0.3 mmol, 100 mg | COC1(CC=2C[C@H]([C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3C2CC1)=O)C)OC | C21H32O3
reactant | methoxylamine | O(C)N | CH5NO
reactant | HCl | 1.2 mmol, 100 mg | Cl | ClH
reactant | sodium acetate | 1.5 mmol, 123 mg | C(C)(=O)[O-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | MeOH | 6 mL | CO | CH4O
solvent | Water | O | H2O
product | (7α)-3,3-dimethoxy-7-methylestr-5(10)-en-17-one O-methyloxime | CON=C1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3CC(CCC3[C@H]1CC2)(OC)OC)C | C22H35NO3
